US04780125
5.9 g of N-[2-(3,3,3-trifluoro-1-propen-1-yl)phenylsulfonyl]-N'-methylurea are suspended in 100 ml of chlorobenzene. The solution is dried by refluxing it in a water separator. Then 6 g of phosgene are introduced into the reaction mixture over 20 minutes at 120°-130° C. The solvent is removed by evaporation, affording 5.6 g of 2-(3,3,3-trifluoro-1-propen-1-yl)phenylsulfonyl isocyanate as a yellowish oil.

reactant | N-[2-(3,3,3-trifluoro-1-propen-1-yl)phenylsulfonyl]-N'-methylurea | 5.9 g | FC(C=CC1=C(C=CC=C1)S(=O)(=O)NC(=O)NC)(F)F | C11H11F3N2O3S
solvent | chlorobenzene | 100 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 2-(3,3,3-trifluoro-1-propen-1-yl)phenylsulfonyl isocyanate | 5.6 g | FC(C=CC1=C(C=CC=C1)S(=O)(=O)N=C=O)(F)F | C10H6F3NO3S
